US08227462B2
Imidazole-1-carboxylic acid {4-methyl-5-[2-(2,2,2-trifluoro-1,1-dimethyl-ethyl)-pyrimidin-4-yl]-thiazol-2-yl}-amide
Carbonyl diimidazole (38 mg) is added to a solution of 4-methyl-5-[2-(2,2,2-trifluoro-1,1-dimethyl-ethyl)-pyrimidin-4-yl]-thiazol-2-ylamine (65 mg) in DCM (1 ml) and DMF (0.2 ml) at room temperature and then stood for 18 hours at 25° C. After cooling the title compound is isolated by filtration.

reactant | Carbonyl diimidazole | 38 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 4-methyl-5-[2-(2,2,2-trifluoro-1,1-dimethyl-ethyl)-pyrimidin-4-yl]-thiazol-2-ylamine | 65 mg | CC=1N=C(SC1C1=NC(=NC=C1)C(C(F)(F)F)(C)C)N | C12H13F3N4S
reactant | DMF | 0.2 ml | CN(C)C=O | C3H7NO
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | Imidazole-1-carboxylic acid {4-methyl-5-[2-(2,2,2-trifluoro-1,1-dimethyl-ethyl)-pyrimidin-4-yl]-thiazol-2-yl}-amide | CC=1N=C(SC1C1=NC(=NC=C1)C(C(F)(F)F)(C)C)NC(=O)N1C=NC=C1 | C16H15F3N6OS
